US04046900
By following the manipulative procedure described above in Example 4(a), 25 g of 1-acetylisonipecotoyl chloride are added to stirred suspension of 25 g of aluminum chloride and 14 g of m-fluorotoluene in 220 ml of ethylene dichloride to produce the oil, 1-acetyl-4-(2-fluoro-4methylbenzoyl)piperidine.

reactant | 1-acetylisonipecotoyl chloride | 25 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum chloride | 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-fluorotoluene | 14 g | FC=1C=C(C=CC1)C | C7H7F
solvent | ethylene dichloride | 220 ml | C(CCl)Cl | C2H4Cl2
product | 1-acetyl-4-(2-fluoro-4methylbenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)C)F)=O | C15H18FNO2
